US07943609B2
Methyl O-benzyl-N-trityl-L-threoninate (4.61 g, 9.91 mmol) was dissolved in 100 mL of anhydrous Et2O and the solution was cooled to 0° C. under N2. Lithium aluminum hydride (2.28 g, 60 mmol) was added and the mixture was stirred for 2 hours. The reaction mixture was then sequentially treated with 2.28 mL of H2O, 2.28 mL of 15% NaOH solution and 6.84 mL of H2O. After stirring for 30 minutes, the reaction mixture was filtered to remove the white solid. The solid was washed with several portions of Et2O and the combined filtrates were concentrated under reduced pressure. Chromatography (SiO2, 10-20% ethyl acetate/hexanes) gave 4.34 g of (2R,3R)-3-(benzyloxy)-2-(tritylamino)butan-1-ol as a colorless syrup.

reactant | Methyl O-benzyl-N-trityl-L-threoninate | 9.91 mmol, 4.61 g | C(C1=CC=CC=C1)O[C@@H]([C@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC)C | C31H31NO3
reactant | Lithium aluminum hydride | 60 mmol, 2.28 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | H2O | 2.28 mL | O | H2O
reactant | NaOH | 2.28 mL | [OH-].[Na+]
reactant | H2O | 6.84 mL | O | H2O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | (2R,3R)-3-(benzyloxy)-2-(tritylamino)butan-1-ol | 4.34 g | C(C1=CC=CC=C1)O[C@@H]([C@@H](CO)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C30H31NO2
